US06897231B2
C. ({3-[3-(6-Methoxy(2-naphthyl))(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)dimethylamine
To a suspension of ethoxy[3-(6-methoxy(2-naphthyl))(1H-indazol-5-yl)]methanimine (0.430 g, 1.13 mmol) in methanol (5 mL) was added N-amino-2-(dimethylamino)acetamide (0.396 g, 3.38 mmol) and 4.3 M sodium methoxide (0.578 mL, 2.49 mmol). The mixture was heated in a sealed tube at 95° C. for 16 h. The solvent was removed using a rotary evaporator and gave a solid residue. Purification of the residue by preparative HPLC (10-80%, acetonitrile/water) gave the title compound (0.025 g, 5% yield): 1H NMR (DMSO-d6) δ 13.95 (br s, 1H), 13.40 (br s, 1H), 8.73 (s, 1H), 8.44 (s, 1H), 8.09 (t, 2H), 8.00 (t, 2H), 7.68 (d, 1H), 7.39 (d, 1H), 7.21 (dd, 1H), 3.90 (s, 3H), 3.60 (s, 2H), 2.22 (s, 6H); ES-MS (m/z) 399 [M+1]+.

reactant | ethoxy[3-(6-methoxy(2-naphthyl))(1H-indazol-5-yl)]methanimine | 1.13 mmol, 0.430 g | C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC2=CC=C(C=C2C=C1)OC | C21H19N3O2
reactant | N-amino-2-(dimethylamino)acetamide | 3.38 mmol, 0.396 g | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | 2.49 mmol, 4.3 M, 0.578 mL | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | ({3-[3-(6-Methoxy(2-naphthyl))(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)dimethylamine | 0.025 g, 5% yield | COC=1C=C2C=CC(=CC2=CC1)C1=NNC2=CC=C(C=C12)C1=NNC(=N1)CN(C)C | C23H22N6O
